US04262000
32 g (0.49 mol) of zinc dust were added to 48 g (0.152 mol) of 2-(4-chlorophenoxy)-4,4-dimethyl-1-pyridin-3-yl-1-penten-3-one, dissolved in 170 ml of glacial acetic acid, and the mixture was heated under reflux on an oil bath for 40 minutes. The zinc was filtered off from the solution and rinsed with glacial acetic acid and the acetic acid solution was concentrated. The residue was rendered alkaline with 1 N sodium hydroxide solution and extracted three times with ethyl acetate. From the ethyl acetate phase, 29.9 g (62% of theory) of 2-(4-chlorophenoxy)-4,4-dimethyl-1-pyridin-3-yl-pentan-3-one of melting point 77°-79° C. were obtained after recrystallization from cyclohexane.

reactant | 2-(4-chlorophenoxy)-4,4-dimethyl-1-pyridin-3-yl-1-penten-3-one | 0.152 mol, 48 g | ClC1=CC=C(OC(=CC=2C=NC=CC2)C(C(C)(C)C)=O)C=C1 | C18H18ClNO2
solvent | acetic acid | 170 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 0.49 mol, 32 g | [Zn] | Zn
product | 2-(4-chlorophenoxy)-4,4-dimethyl-1-pyridin-3-yl-pentan-3-one | 29.9 g, 62% | ClC1=CC=C(OC(CC=2C=NC=CC2)C(C(C)(C)C)=O)C=C1 | C18H20ClNO2
